US08022209B2
1-Methyl-4-[2-(5-phenyl-thiophen-2-yl)-pyridin-4-yl]-piperazine
The title compound was prepared by treating 1-[2-(5-bromo-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine with phenylboronic acid under conditions as described in Example 26.

reactant | 1-[2-(5-bromo-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine | BrC1=CC=C(S1)C1=NC=CC(=C1)N1CCN(CC1)C | C14H16BrN3S
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-Methyl-4-[2-(5-phenyl-thiophen-2-yl)-pyridin-4-yl]-piperazine | CN1CCN(CC1)C1=CC(=NC=C1)C=1SC(=CC1)C1=CC=CC=C1 | C20H21N3S
